US07777047B2
tert-butyl 4-(benzylthio)-4-{[({7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}carbonyl)amino]methyl}piperidine-1-carboxylate
A mixture of 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (0.30 g), tert-butyl 4-(aminomethyl)-4-(benzylthio)piperidine-1-carboxylate (0.33 g), 1H-1,2,3-benzotriazol-1-ol (0.13 g), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.22 g) and tetrahydrofuran (6 ml) was stirred overnight at room temperature. Saturated aqueous sodium hydrogencarbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (NaSO4), and concentrated. The residue was subjected to silica gel column chromatography to give the title compound (0.44 g, yield 75%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). melting point 195-197° C.

reactant | 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.30 g | CN(C=1C=CC=C2C=C(NC12)C(=O)O)S(=O)(=O)C=1SC=CC1 | C14H12N2O4S2
reactant | tert-butyl 4-(aminomethyl)-4-(benzylthio)piperidine-1-carboxylate | 0.33 g | NCC1(CCN(CC1)C(=O)OC(C)(C)C)SCC1=CC=CC=C1 | C18H28N2O2S
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.13 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.22 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | tert-butyl 4-(benzylthio)-4-{[({7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}carbonyl)amino]methyl}piperidine-1-carboxylate | 0.44 g, yield 75% | C(C1=CC=CC=C1)SC1(CCN(CC1)C(=O)OC(C)(C)C)CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C32H38N4O5S3
